US07662830B2
4. 4-[4-(5-Bromo-3-chloro-pyridin-2-yl)-2-(R)-methyl-piperazin-1-yl]-6-(4-fluoro-phenyl)-2-(2-(S)-methyl-pyrrolidin-1-yl)-pyrimidine
Heat a mixture of 4-chloro-6-(4-fluoro-phenyl)-2-(2-(S)-methyl-pyrrolidin-1-yl)-pyrimidine (1.30 g, 4.44 mmol), 1-(5-bromo-3-chloro-pyridin-2-yl)-3-(R)-methyl-piperazine (1.2 g), and NaHCO3 (0.71 g, 8.46 mmol) in EtOH at 50° C. for 20 h. Concentrate under reduced pressure and partition between EtOAc and brine. Dry the organic layer (Na2SO4) and concentrate under reduced pressure. Purify the residue by flash column eluting with EtOAc-Hexanes (1:4) to afford the title compound as a white solid.

reactant | 4-chloro-6-(4-fluoro-phenyl)-2-(2-(S)-methyl-pyrrolidin-1-yl)-pyrimidine | 4.44 mmol, 1.30 g | ClC1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@H](CCC1)C | C15H15ClFN3
reactant | 1-(5-bromo-3-chloro-pyridin-2-yl)-3-(R)-methyl-piperazine | 1.2 g | BrC=1C=C(C(=NC1)N1C[C@H](NCC1)C)Cl | C10H13BrClN3
reactant | NaHCO3 | 8.46 mmol, 0.71 g | C(=O)(O)[O-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 4-[4-(5-Bromo-3-chloro-pyridin-2-yl)-2-(R)-methyl-piperazin-1-yl]-6-(4-fluoro-phenyl)-2-(2-(S)-methyl-pyrrolidin-1-yl)-pyrimidine | BrC=1C=C(C(=NC1)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@H](CCC1)C)C)Cl | C25H27BrClFN6
